US07820822B2
D: 1-[3-Fluoro-2-(carboxymethyl)phenyl]isoquinoline
50.0 g (0.224 mol) of 1-(3-fluorophenyl)isoquinoline were dissolved in 1000 ml of THF and admixed dropwise at −78° C. with 134.4 ml (0.336 mol, 1.50 eq.) of n-butyllithium (2.5 M in hexane). After the addition had ended, the mixture was stirred at −78° C. for a further 3 h and the red-brown lithium organyl was subsequently transferred via a tube at −78° C. to a solution of 190.8 ml (2.47 mol, 11.0 eq.) of methyl chloroformate in 2000 ml of THF. The mixture was stirred at −78° C. up to −20° C. for a further 18 h. The reaction solution was quenched with EtOH with external ice cooling and concentrated to a third of the volume. Subsequently, the reaction solution was admixed with 300 ml of dichloromethane and washed three times each with 100 ml of NH4Cl solution and NaHCO3 solution and water, dried over MgSO4 and concentrated under reduced pressure. The resulting highly viscous oil was crystallized from heptane. 44.68 g of a crystalline solid were obtained, corresponding to 70.4% of theory, with a purity of 98%.

reactant | 1-(3-fluorophenyl)isoquinoline | 0.224 mol, 50.0 g | FC=1C=C(C=CC1)C1=NC=CC2=CC=CC=C12 | C15H10FN
reactant | n-butyllithium | 0.336 mol, 2.5 M, 134.4 ml, 1.50 eq. | C(CCC)[Li]
reactant | methyl chloroformate | 2.47 mol, 190.8 ml, 11.0 eq. | ClC(=O)OC | C2H3ClO2
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
solvent | THF | 2000 ml | C1CCOC1 | C4H8O
product | 1-[3-Fluoro-2-(carboxymethyl)phenyl]isoquinoline | 44.68 g | FC=1C(=C(C=CC1)C1=NC=CC2=CC=CC=C12)CC(=O)O | C17H12FNO2
